US04287337
0.1 mol of ethyl lithium dissolved in 200 ml of anhydrous ether is added drop by drop in an inert atmosphere to 22 g of 5-bromo-2,2,4,4-tetramethyl-pentane nitrile in 60 ml of anhydrous ether. This reaction medium is maintained between 0° and 5° C. during the addition and then for an additional 30 minutes and then is kept at room temperature for 4 hours. After hydrolysis, the aqueous phase is extracted with ether. The 3,3,5,5 tetramethyl-2-ethyl-3,4,5,6-tetrahydropyridine is then isolated by distillation. A colorless liquid of B.P.2.10 -2=40° C. is obtained in a yield of 40%.

reactant | ethyl lithium | 0.1 mol | C(C)[Li]
reactant | 5-bromo-2,2,4,4-tetramethyl-pentane nitrile | 22 g | BrCC(CC(C#N)(C)C)(C)C | C9H16BrN
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 3,3,5,5 tetramethyl-2-ethyl-3,4,5,6-tetrahydropyridine | yield of 40% | CC1(C(=NCC(C1)(C)C)CC)C | C11H21N
